US07807694B2
AMD9841: Preparation of (2′-Aminomethyl-biphenyl-4-ylmethyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
Using the general alkylation procedure: To a solution of (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.194 g, 0.51 mmol) in CH3CN (5 mL) was added N,N-diisopropylethylamine (0.30 mL, 1.72 mmol) followed by 4′-bromomethyl-2-cyanobiphenyl (0.303 g, 1.11 mmol) and the resultant mixture heated to 60° C. for 25 h. Purification of the crude material by column chromatography on silica gel (10:1:1 CH2Cl2—CH3OH—NH4OH) followed by radial chromatography on silica gel (2 mm plate, 100:1:1 CH2Cl2—CH3OH—NH4OH) provided a tan foam (79 mg).

reactant | (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.51 mmol, 0.194 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | N,N-diisopropylethylamine | 1.72 mmol, 0.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4′-bromomethyl-2-cyanobiphenyl | 1.11 mmol, 0.303 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | (2′-Aminomethyl-biphenyl-4-ylmethyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 79 mg | NCC1=C(C=CC=C1)C1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2 | C31H31N5
